US06369123B1
This ester-linked benzophenone was prepared according to the method of PCT Patent Appln. No. WO 93/16131 (Everaerts et al.). In a first step, an ethyl-(4-benzoyl-phenoxy)acetate (EPBA) precursor was prepared by refluxing a mixture of 100.0 grams (0.51 moles) 4-hydroxybenizoplhenonie, 85.2 grams (0.51 moles) ethyl bromoacetate and 800 ml of 2-butanone (MEK) in the presence of an excess of potassium carbonate (209 grams or 1.5 moles). The carbonate was filtered off and the MEK removed on a rotovapor. The residue was crystallized from isopropyl alcohol to yield a white, flaky product with a sharp melting point of 82° C. The structure was confirmed by NoM.

reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | ethyl bromoacetate | 0.51 moles, 85.2 grams | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.5 moles, 209 grams | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 800 ml | CC(CC)=O | C4H8O
product | ethyl-(4-benzoyl-phenoxy)acetate | C(C)OC(COC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C17H16O4
